US07915267B2
4′-(methylsulfonyl)biphenyl-3-carbonitrile
By a method similar to that in Example 81 and using 1-bromo-4-(methylsulfonyl)benzene and (3-cyanophenyl)boronic acid, the title compound was obtained as a pale-yellow powder (10.4 g, 95%).

reactant | 1-bromo-4-(methylsulfonyl)benzene | BrC1=CC=C(C=C1)S(=O)(=O)C | C7H7BrO2S
reactant | (3-cyanophenyl)boronic acid | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
product | 4′-(methylsulfonyl)biphenyl-3-carbonitrile | CS(=O)(=O)C1=CC=C(C=C1)C1=CC(=CC=C1)C#N | C14H11NO2S
